US08071597B2
N-[3-(3,5-Dimethoxy-phenylamino)-quinoxalin-2-yl]-3-methanesulfonyl-benzenesulfonamide (1) (Scheme 5)
N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine (50 mg, 0.17 mmol), 3-(methylsulfonyl)benzenesulfonyl chloride (64 mg, 0.26 mmol, commercially available from Matrix) are dissolved in a 1 to 1 mixture of pyridine and 1,2-dichlorobenzene (0.4 ml) and the reaction mixture is heated at 100° C. in the microwave for 20 min. When TLC confirms the total consumption of the starting material, the reaction mixture is cooled down to rt. The precipitate formed is filtered and purified by column chromatography, using CHCl3: MeOH as eluent, to afford 18 mg (21%) of the title compound as a light brown solid. HPLC (max plot) 84%, rt. 4.2 min. LC/MS: (ES+): 515.

reactant | N-(3,5-dimethoxyphenyl)quinoxaline-2,3-diamine | 0.17 mmol, 50 mg | COC=1C=C(C=C(C1)OC)NC1=NC2=CC=CC=C2N=C1N | C16H16N4O2
reactant | 3-(methylsulfonyl)benzenesulfonyl chloride | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichlorobenzene | 0.4 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-[3-(3,5-Dimethoxy-phenylamino)-quinoxalin-2-yl]-3-methanesulfonyl-benzenesulfonamide | 18 mg, 21% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C | C23H22N4O6S2
